US08044213B2
A mixture of 0.470 g (0.86 mmole) of 4-(3-chloro-phenyl)-2-{4-methoxy-2-nitro-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-phenylamino}-thiazole-5-carboxylic acid amide (VI.44), 0.250 g of 10% palladium on carbon catalyst and 3 mL of 96% formic acid was stirred under 1 atmosphere of hydrogen for 16 hours. The mixture was filtered through diatomaceous earth and the diatomaceous earth pad was washed with formic acid. The filtrate was heated at reflux for 2 hours, cooled and concentrated under reduced pressure. The residue was dissolved in 5 mL of dimethylsulfoxide and 0.20 g of potassium hydroxide in 1 mL of water was added dropwise. The mixture was stirred at room temperature for 30 minutes and then diluted with 50 mL of water. The resulting precipitate was collected by filtration and washed with water to give 0.190 g of 4-(3-chloro-phenyl)-2-[6-(2-hydroxy-ethoxy)-5-methoxy-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide (I.44a) as a purple solid.

reactant | 4-(3-chloro-phenyl)-2-{4-methoxy-2-nitro-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-phenylamino}-thiazole-5-carboxylic acid amide | 0.86 mmole, 0.470 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)NC1=C(C=C(C(=C1)OCCOC1OCCCC1)OC)[N+](=O)[O-] | C24H25ClN4O7S
reactant | hydrogen | [H][H] | H2
reactant | formic acid | 3 mL | C(=O)O | CH2O2
catalyst | palladium on carbon | 0.250 g | [Pd] | Pd
product | 4-(3-chloro-phenyl)-2-[6-(2-hydroxy-ethoxy)-5-methoxy-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide | 0.190 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C(=C2)OC)OCCO | C20H17ClN4O4S
